US20010027196A1
2-Amino-4-(3,4-dimethyl-benzylamino)-6-pyrazol-1-yl-pyrimidine-5-carbonitrile
From 2-amino-4-methanesulfinyl-6-pyrazol-1-yl-pyrimidine-5-carbonitrile and 3,4-dimethylbenzylamine in DME. ES-MS m/e (%): 320 (M+H+, 100).

reactant | 2-amino-4-methanesulfinyl-6-pyrazol-1-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)S(=O)C)C#N)N1N=CC=C1 | C9H8N6OS
reactant | 3,4-dimethylbenzylamine | CC=1C=C(CN)C=CC1C | C9H13N
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-(3,4-dimethyl-benzylamino)-6-pyrazol-1-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)NCC1=CC(=C(C=C1)C)C)C#N)N1N=CC=C1 | C17H17N7
